US05723450
4-(3,3-Dimethyl-1,5-dioxaspiro[5.5]undecan-9-yloxy)-3-methoxy-2-methylpyridine
Preparation was carried out analogously to Example 43 from 4-chloro-3-methoxy-2-methylpyridine and 3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-ol. Yield: 75%; M.p.: 90° C.

reactant | 4-chloro-3-methoxy-2-methylpyridine | ClC1=C(C(=NC=C1)C)OC | C7H8ClNO
reactant | 3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-ol | CC1(COC2(OC1)CCC(CC2)O)C | C11H20O3
product | 4-(3,3-Dimethyl-1,5-dioxaspiro[5.5]undecan-9-yloxy)-3-methoxy-2-methylpyridine | Yield: 75% | CC1(COC2(OC1)CCC(CC2)OC2=C(C(=NC=C2)C)OC)C | C18H27NO4
